Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
right anterior thigh pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with hx HTN, HLD, CKD, recent R hip fracture
s/p pinning on warfarin for DVT ppx, presenting with sudden 
onset
R thigh pain starting last night. 

The patient reports that while eating dinner last night he
started to feel a "muscle spasm" in his thigh. He waited for it
to go away but it became more severe over a period of about 2
hours. He took oxycodone 5mg x2 without relief. He then 
initially
presented to BID-N ED where he was found to have R thigh 
hematoma
on CT and supratherapeutic INR of 6.7. He was given IV Vit K
(10mg) and transferred to ___ for possible intervention. 

Of note, he was recently admitted to BID-N ___ - ___
after a fall, found to have impacted R subcapital hip fracture.
He underwent fixation in the OR on ___, had 3 pins placed.
He was discharged on warfarin for DVT ppx. 
  
In the ED, initial vitals:
T 98.7  HR 72  BP 135/72  RR 18  SaO2 100% on RA

- Exam notable for:  
Well-appearing, no acute distress. Breathing comfortably on room
air. Right thigh with swelling and firmness. Pain with ranging
the right knee or hip. Good CSM. 2+ ___ pulse.

- Labs notable for:  
WBC 10.7  Hb 12.5  plt 193
Na 145, K 4.2, Cl 110, HCO3 18, BUN 28, Cr 1.0
INR 6.4 PTT 53.3

- Imaging notable for:  
CT, read not yet available

- Consults:
Orthopedics
Staffed w ___. CT/xrays do not show any new fractures.
Hematoma likely ___ to elevated INR. Thigh is firm but not 
tense.
Strong pulses and neurovascularly intact. Low concern for
compartment syndrome. Please admit to medicine for monitoring 
and
management of elevated INR.

- Pt given:  
___ 08:21 IV Morphine Sulfate 4 mg  
___ 12:15 IVF  LR 1000 mL 
___ 15:12 IV Morphine Sulfate 2 mg 

- Vitals prior to transfer:  
T 98.1  HR 71  BP 136/83  RR 18  SaO2 98% RA

On the floor, the patient endorses the above history. He feels
his pain is significantly improved. He denies headache, vision
changes, weakness/numbness, chest pain, SOB, N/V, abdominal 
pain,
diarrhea, bruising, rash, black or bloody stools, or nosebleeds.
 
Past Medical History:
HTN
HLD
CKD stage III ___ NSAID nephropathy
Mitral regurgitation
Chronic low back pain
Lumbar spinal stenosis and spondylolisthesis s/p lumbar
laminectomy ___ 
 
Social History:
___
Family History:
Mother died of lymphoma.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VITALS: ___ 1825 Temp: 98.5 PO BP: 146/78 HR: 70 RR: 18 O2
sat: 98% O2 delivery: ra   
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, early systolic
murmur heard best in mitral area
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present,
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
MSK: extremely tender to palpation in R thigh but not tense
Skin: Warm, dry, no rashes or notable lesions. No ecchymoses or
petechiae. 
Neuro: CNII-XII intact, ___ strength upper/lower extremities 
(RLE
exam limited by pain but dorsiflexion/plantarflexion intact),
grossly normal sensation 

DISCHARGE PHYSICAL EXAM:  
24 HR Data (last updated ___ @ 741)
    Temp: 98.1 (Tm 98.9), BP: 107/67 (102-111/65-70), HR: 62
(62-75), RR: 18 (___), O2 sat: 96% (96-97), O2 delivery: Ra  
GENERAL: NAD  
HEENT: AT/NC, anicteric sclera, MMM  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB
GI: abdomen soft, nondistended, nontender 
EXTREMITIES: ~5-6cm vertical incision in lateral aspect of R
thigh, staples in place, c/d/I. right anterior thigh ttp. no
cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: AOx4, no focal deficits. 
DERM: Warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
ADMISSION LABS
___ 08:27AM BLOOD WBC-10.7* RBC-4.14* Hgb-12.5* Hct-37.6* 
MCV-91 MCH-30.2 MCHC-33.2 RDW-13.3 RDWSD-44.4 Plt ___
___ 08:27AM BLOOD Neuts-74.3* Lymphs-16.3* Monos-7.8 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-7.93* AbsLymp-1.74 
AbsMono-0.83* AbsEos-0.09 AbsBaso-0.04
___ 08:27AM BLOOD ___ PTT-53.3* ___
___ 08:27AM BLOOD Glucose-107* UreaN-28* Creat-1.0 Na-145 
K-4.2 Cl-110* HCO3-18* AnGap-17
___ 05:41AM BLOOD Calcium-9.9 Phos-3.0 Mg-2.0

DISCHARGE LABS
___ 05:36AM BLOOD WBC-11.6* RBC-3.94* Hgb-11.8* Hct-36.6* 
MCV-93 MCH-29.9 MCHC-32.2 RDW-13.2 RDWSD-45.6 Plt ___
___ 05:36AM BLOOD ___
___ 05:41AM BLOOD Glucose-110* UreaN-20 Creat-1.0 Na-140 
K-5.0 Cl-104 HCO3-22 AnGap-14
___ 05:41AM BLOOD Calcium-9.9 Phos-3.0 Mg-2.0

MICRODATA: None. 

IMAGING *please note - discussed w/ ___ consult team who 
were able to visualize/confirm presence of R thigh hematoma; 
notified Dr ___ incomplete ___
EXAMINATION:  CT MSK PELVIS WO CON

INDICATION:  R hip pain post-op, INR 6, concern for bleed

TECHNIQUE:  Single phase split bolus contrast: MDCT axial images 
were acquired through the abdomen and pelvis following
intravenous contrast administration with split bolus technique.
Oral contrast was administered.
Coronal and sagittal reformations were performed and reviewed on 
PACS.

DOSE:  Acquisition sequence:
1) Spiral Acquisition 8.5 s, 41.8 cm; CTDIvol = 36.0 mGy (Body) 
DLP = 1,503.4 mGy-cm.
Total DLP (Body) = 1,503 mGy-cm.

COMPARISON:  None.

FINDINGS:  LOWER CHEST: Visualized lung fields are within normal 
limits. There is no evidence of pleural or pericardial
effusion.

ABDOMEN:

HEPATOBILIARY: The liver demonstrates homogenous attenuation 
throughout.  There is no evidence of focal lesions.  There
is no evidence of intrahepatic or extrahepatic biliary 
dilatation.  The gallbladder is within normal limits.

PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal
dilatation.  There is no peripancreatic stranding.

SPLEEN: The spleen shows normal size and attenuation throughout, 
without evidence of focal lesions.

ADRENALS: The right and left adrenal glands are normal in size 
and shape.

URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  There is no evidence of focal renal
lesions or hydronephrosis.  There is no perinephric abnormality.

GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate normal caliber, wall thickness, and
enhancement throughout.  The colon and rectum are within normal 
limits.  The appendix is normal.

PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no free fluid in the pelvis.

REPRODUCTIVE ORGANS: The visualized reproductive organs are 
unremarkable.

LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy.

VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted.

BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.

SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits.

IMPRESSION:
1.

Dictated by: 

By electronically signing this report, I the physician, attest 
that I
have reviewed the images for the above examination(s) and agree
with the findings as documented above.
 
Brief Hospital Course:
Brief Hospital Course: 
Mr ___ is a ___ y.o. M with HTN, HLD, Stage 3 CKD, 
spinal stenosis s/p laminectomy in ___ who recently underwent 
pinning/fixation of Right subcapital hip fracture on ___ 
with Dr ___. He was subsequently placed on warfarin for 
DVT ppx. Initially, he presented to ___ on ___ for 
right anterior thigh pain. He was found to have INR 6.4, which 
was reversed with IV vitamin K (10mg), 2U FFP. Per Ortho, found 
to have Right anterior thigh hematoma for which he was 
transferred to ___ on ___ for further evaluation. Per 
Ortho, no c/f compression compartment syndrome. Warfarin was 
discontinued and per ortho, he was switched to Lovenox 40mg 
daily on ___. He worked with ___ who felt he was safe to be 
discharged back to home with existing ___ service. Pain improved 
significantly prior to discharge and he was given oxycodone 
additional 10 tablets for pain control at discharge. 

TRANSITIONAL ISSUES
====================
[]F/u worsening thigh pain or bleeding issues. D/c'ed warfarin 
and started Lovenox ppx on ___. 
[]Pt to discuss w/ Dr ___: duration of lovenox. We 
emailed Dr ___ pt request to let him know of 
inpatient hospitalization. 
[]Repeat CBC for mild leukocytosis and anemia (Hgb 11.8, WBC 
11.6 but overall stable at discharge). 
[]d/c'ed ASA 81mg daily as patient appears to be on this for 
primary prevention. can restart if necessary, held at discharge. 


ACUTE ISSUES
=============
# R thigh hematoma
# Supratherapeutic INR
See hospital course above. 

# Anemia
Hb 13.0 at time of discharge from BID-N in ___. Likely iso
hematoma/blood collection in R thigh. Discharged with Hgb 11.8, 
stable. Did not require transfusions. 

# Leukocytosis
p/w WBC 10.7 at admission, stable and no infx sx/signs. 11.6 at 
discharge. 

CHRONIC/STABLE ISSUES:  
# HTN: continued home atenolol
# HLD: continued home fenofibrate
# CKD stage III: Cr 1.3 in ___, Cr 1.0 on admission and also 
1.0 at discharge.

# Code status: Full, confirmed  
Name of health care proxy: ___ 
Relationship: ex-wife 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 50 mg PO DAILY 
2. Fenofibrate 160 mg PO DAILY 
3. Warfarin 5 mg PO DAILY16 
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
6. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - Moderate 


 
Discharge Medications:
1.  Enoxaparin (Prophylaxis) 40 mg SC DAILY DVT ppx   
2.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - Third 
Line 
RX *polyethylene glycol 3350 17 gram/dose one dose by mouth 
daily as needed for constipation Refills:*0 
3.  Senna 8.6 mg PO DAILY:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg one tablet by mouth daily as 
needed for constipation Disp #*30 Tablet Refills:*0 
4.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
5.  Atenolol 50 mg PO DAILY  
6.  Fenofibrate 160 mg PO DAILY  
7.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate  
8. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you discuss with your primary care 
doctor.

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right thigh hematoma

Secondary diagnoses: 
supratherapeutic INR
anemia 
leukocytosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___,  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had blood collection (hematoma) 
in your right thigh. This was due to thinning of your blood with 
the warfarin, which you were on to prevent blood clots. 

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  We gave you IV vitamin K to reverse the blood thinning. We 
also discontinued your warfarin and started you on Lovenox 
injections. Lovenox is another type of blood thinner that is 
used to prevent blood clots.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- Please use lovenox injections daily to prevent blood clots 
from forming. Please follow up with your orthopedic surgeon. The 
appointment is listed below. Continue to work closely with your 
physical therapist. 

It was a pleasure taking care of you at the ___ 
___!  We wish you the best! 

Sincerely, 
Your ___ Team
 
Followup Instructions:
___